US05698570
Synthesis of 7-(3-aminomethyl-4-t-butyloxyiminopyrrolidin-1-yl)-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
141 mg (0.5 mmole) of 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid and 143 mg (0.55 mmole) of 3-aminomethyl-4-t-butyloxyiminopyrrolidine dihydrochloride were refluxed for 2.5 hours under heating according to the same manner as Example 89 and cooled down to room temperature. Then, the resulting product was then separated and purified with preparative HPLC to obtain 151 mg (Yield: 67%) of the title compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.5 mmole, 141 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-aminomethyl-4-t-butyloxyiminopyrrolidine dihydrochloride | 0.55 mmole, 143 mg | Cl.Cl.NCC1CNCC1=NOC(C)(C)C
product | 7-(3-aminomethyl-4-t-butyloxyiminopyrrolidin-1-yl)-1-cyclopropyl-6,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 151 mg, Yield: 67% | NCC1CN(CC1=NOC(C)(C)C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C22H26F2N4O4
